US07247625B2
To a stirred solution of 6-[(3,4-difluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (0.10 g, 0.29 mmol) in toluene (5 mL) was added Lawesson's reagent (0.09 g, 0.23 mmol). The reaction mixture was heated to reflux overnight and partitioned between ammonium chloride solution (sat.) and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated. Flash silica gel column separation using 20% ethyl acetate/hexane followed by trituration with ether gave 6-[(3,4-difluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazine-2-thione as a white solid (0.03 g, 31%). 1H NMR (DMSO-d6): δ 8.44 (s, 1H), 7.32 (q, J=9.1 Hz, 1H), 7.19 (d, J=8.8 Hz, 1H), 7.12 (dd, J=8.8, 2.4 Hz, 1H), 6.97 (m, 1H), 6.88 (d, J=2.4 Hz, 1H), 6.81 (m, 1H), 3.75 (s, 3H), 1.99 (m, 4H), 0.85 (t, J=7.3 Hz, 6H); MS (ESI) m/z 363 ([M+H]+); MS (ESI) m/z 361 ([M−H]−); Anal. calcd for C19H20F2N2OS: C, 62.96; H, 5.56; N, 7.73. Found: C, 62.15; H, 5.65 N, 7.39.

reactant | 6-[(3,4-difluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 0.29 mmol, 0.10 g | FC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C19H20F2N2O2
reactant | Lawesson's reagent | 0.23 mmol, 0.09 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[(3,4-difluorophenyl)amino]-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazine-2-thione | 0.03 g, 31% | FC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2C)=S)(CC)CC)C1 | C19H20F2N2OS
